US08865704B2
trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)cyclohexane carboxylic acid
trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-cyclo hexanecarboxylic acid methyl ester (2.2 g, 6.98 mmol) was dissolved in 20 mL of methanol, 5 mL of 15% NaOH solution were added and the mixture heated at 40° C. for 4 hours. The reaction was allowed to cool down to room temperature and the mixture neutralized with 2N HCl solution and extracted with DCM. The organic phase was dried over Na2SO4 and the solvent removed under reduced pressure. The residue was crystallized from a mixture of acetone-H2O (1:1), affording 700 mg of the desired product (33% yield).

reactant | trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-cyclo hexanecarboxylic acid methyl ester | 6.98 mmol, 2.2 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(C2=CC=CC=C2CC1=O)=O | C18H21NO4
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | trans-4-(1,3-Dioxo-3,4-dihydro-1H-isoquinolin-2-ylmethyl)cyclohexane carboxylic acid | 700 mg, 33% yield | O=C1N(C(CC2=CC=CC=C12)=O)C[C@@H]1CC[C@H](CC1)C(=O)O | C17H19NO4
